US04246268
To a suspension of 2.5 g (0.1 mole) of magnesium in 20 ml of tetrahydrofuran is added a crystal of iodine and a solution of 27.5 g (0.1 mole) of 1-trifluoromethyl-3-bromonaphthalene in 25 ml of tetrahydrofuran. The agitated mixture is refluxed for 1 hour, whereupon 10.7 g (0.1 mole) of 4-pyridinecarboxaldehyde dissolved in 50 ml of tetrahydrofuran is added gradually and heating continued for 3 hours. The reaction mixture is decomposed with saturated aqueous ammonium chloride solution and extracted with ether and the organic phase washed with sodium carbonate, dried over NaSO4 and filtered. The ether is evaporated and the resulting α-(4-trifluoromethyl-2-naphthyl)-4-pyridinemethanol dissolved in 150 ml of acetic acid and agitated in a Parr apparatus in the presence of 1.5 g of platinum oxide. Hydrogen gas is introduced and the reaction continued until 0.3 moles of hydrogen are consumed. The mixture is filtered and the solvent removed in vacuo. Addition to the residue of an excess of HCl in ethereal solution yields α(4-trifluoromethyl-2-naphthyl)-4-piperidinemethanol hydrochloride.

reactant | magnesium | 0.1 mole, 2.5 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-trifluoromethyl-3-bromonaphthalene | 0.1 mole, 27.5 g | FC(C1=CC(=CC2=CC=CC=C12)Br)(F)F | C11H6BrF3
reactant | 4-pyridinecarboxaldehyde | 0.1 mole, 10.7 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrogen | 0.3 moles | [H][H] | H2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | α(4-trifluoromethyl-2-naphthyl)-4-piperidinemethanol hydrochloride | Cl.FC(C1=CC(=CC2=CC=CC=C12)C(O)C1CCNCC1)(F)F | InChI=1S/C17H18F3NO.ClH/c18-17(19,20)15-10-13(9-12-3-1-2-4-14(12)15)16(22)11-5-7-21-8-6-11;/h1-4,9-11,16,21-22H,5-8H2;1H
